US04260619
To the solution of 0.39 g of 5-acetoxy-2-(2-acetylaminopropyl)-pyridine in 20 ml of anhydrous tetrahydrofuran, 3.6 ml of a 1 molar solution of alanetriethylamine in toluene are added dropwise while stirring at 0°. After 12 hours 22 ml of 2 N aqueous sodium hydroxide are added at 0°, and the mixture evaporated azeotropically with isopropanol. The residue is taken up in 50 ml of methanol, the pH of the solution adjusted to 8 with 5 N ethereal hydrogen chloride, the resulting salts filtered off, and the filtrate evaporated. The residue is triturated with isopropanol, to yield the 2-(2-ethylaminopropyl)-5-pyridinol melting at 75°-79°.

reactant | 5-acetoxy-2-(2-acetylaminopropyl)-pyridine | 0.39 g | C(C)(=O)OC=1C=CC(=NC1)CC(C)NC(C)=O | C12H16N2O3
reactant | sodium hydroxide | 2 N, 22 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(2-ethylaminopropyl)-5-pyridinol | C(C)NC(CC1=NC=C(C=C1)O)C | C10H16N2O
